US04694017
To 114 g of 3-(2,2-diethoxyethyl)-1-methyloxindole was added 110 ml of 5% hydrochloric acid aqueous solution, and the mixture was stirred at a room temperature for 3 hours. The reaction mixture was filtered and the filtrate was neutralized with sodium carbonate, then extracted with chloroform. The chloroform layer was washed with a saturated sodium chloride aqueous solution, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation to obtain 89 g of 3-formylmethyl-1-methyloxindole.

reactant | 3-(2,2-diethoxyethyl)-1-methyloxindole | 114 g | C(C)OC(CC1C(N(C2=CC=CC=C12)C)=O)OCC | C15H21NO3
solvent | hydrochloric acid | 110 ml | Cl | ClH
product | 3-formylmethyl-1-methyloxindole | 89 g | C(=O)CC1C(N(C2=CC=CC=C12)C)=O | C11H11NO2
